US09382288B2
16α-Bromo-3-methoxy-estra-1,3,5(10)-triene
To a stirred suspension of 2.67 g (15.0 mmol) N-bromosuccinimide in 18 ml dry dichloromethane, a solution of 3.93 g (15.0 mmol) triphenylphosphine in 18 ml dry dichloromethane is added dropwise at 10° C. After 5 min, 1.72 g (6.0 mmol) 16β-hydroxy-3-methoxy-estra-1,3,5(10)-triene are added and the mixture is stirred at room temperature for 2 h. After column chromatography of the reaction product on silica gel (60 g) using 300 ml of dichloromethane, the target compound is obtained in the form of colorless crystals.

reactant | N-bromosuccinimide | 15.0 mmol, 2.67 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | triphenylphosphine | 15.0 mmol, 3.93 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 16β-hydroxy-3-methoxy-estra-1,3,5(10)-triene | 6.0 mmol, 1.72 g | O[C@@H]1C[C@]2(C)[C@@H](C1)[C@@H]1CCC=3C=C(C=CC3[C@H]1CC2)OC | C19H26O2
solvent | dichloromethane | 18 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 18 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
product | 16α-Bromo-3-methoxy-estra-1,3,5(10)-triene | Br[C@H]1C[C@]2(C)[C@@H](C1)[C@@H]1CCC=3C=C(C=CC3[C@H]1CC2)OC | C19H25BrO
